US05028596
a) O2,2'-Anhydrouridine
Uridine (10 g, 0.04 mole) was dissolved in 20 ml of warm, dry dimethylformamide, and 11.4 g of diphenylcarbonate (0.06 m) and 0.2 g of sodium bicarbonate were added. The solution was stirred and heated at 150° C. until evolution of carbon dioxide ceased (30 min approx). After cooling the solution was poured into 200 ml of ether with rapid stirring. The resulting solid was filtered off, washed with ether, and recrystallised from methanol to give 7.2 g (80%) of the title compound, as white crystals, melting at 235°-40° C.

reactant | Uridine | 0.04 mole, 10 g | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C=C1 | C9H12N2O6
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | diphenylcarbonate | 11.4 g | C1(=CC=CC=C1)OC(OC1=CC=CC=C1)=O | C13H10O3
reactant | carbon dioxide | C(=O)=O | CO2
catalyst | sodium bicarbonate | 0.2 g | C([O-])(O)=O.[Na+]
solvent | ether | 200 ml | CCOCC | C4H10O
product | O2,2'-Anhydrouridine | 7.2 g, 80% | C1=CN2C3C(C(C(O3)CO)O)OC2=NC1=O | C9H10N2O5
